US05888422
2-(4-Decyloxyphenyl)-9,10-difluoro-7-butyl-phenanthrene
From 9,1 0-difluoro-2-bromo-7-butylphenanthrene and 4-decyloxyphenyl-boronic acid by means of palladium-catalyzed Suzuki coupling (in analogy to Acc. Chem. Res. 1982, 15, 178). The crude product is purified by column chromatography.

reactant | 9,1 0-difluoro-2-bromo-7-butylphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1F)Br)CCCC | C18H15BrF2
reactant | 4-decyloxyphenyl-boronic acid | C(CCCCCCCCC)OC1=CC=C(C=C1)B(O)O | C16H27BO3
catalyst | palladium | [Pd] | Pd
product | 2-(4-Decyloxyphenyl)-9,10-difluoro-7-butyl-phenanthrene | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=2C(=C(C3=CC(=CC=C3C2C=C1)CCCC)F)F | C34H40F2O
